US08232286B2
CIS- AND TRANS-4-MORPHOLINO-CYCLOHEXYLAMINE
3.9 g (30 mmol) 4-dibenzylaminocyclohexanone are dissolved in 100 ml dichloromethane and stirred with 3.9 g (45 mmol) morpholine and 9.5 g (45 mmol) sodium triacetoxyborohydride for 12 h at RT. Then the mixture is combined with water and potassium carbonate, the organic phase is separated off, dried and the solvent is eliminated in vacuo. The residue is purified through a silica gel column (approx 20 ml silica gel; approx 500 ml of ethyl acetate 90/methanol 10+1% conc. ammonia). The required fractions are evaporated down in vacuo.

reactant | 4-dibenzylaminocyclohexanone | 30 mmol, 3.9 g | C(C1=CC=CC=C1)N(C1CCC(CC1)=O)CC1=CC=CC=C1 | C20H23NO
reactant | morpholine | 45 mmol, 3.9 g | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 45 mmol, 9.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | TRANS-4-MORPHOLINO-CYCLOHEXYLAMINE | O1CCN(CC1)[C@@H]1CC[C@H](CC1)N | C10H20N2O
